US04406688
4-(2,4-Dichloro-3-methylbenzoyl)-1,3-dimethyl-5-hydroxypyrazole
11.2 g (0.1 mole) of 1,3-dimethyl-5-pyrazolone and 9.6 g (0.13 mole) of calcium hydroxide were suspended in 165 ml of isopropanol, and with stirring, the suspension was heated under reflux for 30 minutes. The reaction mixture was cooled, and 22.4 g (0.1 mole) of 2,4-dichloro-3-methyl-benzoyl chloride was added dropwise. After the addition, the mixture was heated under reflux for 10 hours. The solvent was distilled off from the reaction mixture, and 40 ml of water was added. The mixture was acidified with 65 ml of 2 N hydrochloric acid, and extracted with 100 ml of chloroform twice. The extracts were washed with water, and dried over magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from toluene to give 14.9 g of colorless crystals (yield 49.8%; melting point 148.9°-149.5° C.).

reactant | 1,3-dimethyl-5-pyrazolone | 0.1 mole, 11.2 g | CN1NC(=CC1=O)C | C5H8N2O
reactant | calcium hydroxide | 0.13 mole, 9.6 g | [OH-].[Ca+2].[OH-]
reactant | 2,4-dichloro-3-methyl-benzoyl chloride | 0.1 mole, 22.4 g | ClC1=C(C(=O)Cl)C=CC(=C1C)Cl | C8H5Cl3O
solvent | isopropanol | 165 ml | C(C)(C)O | C3H8O
product | 4-(2,4-Dichloro-3-methylbenzoyl)-1,3-dimethyl-5-hydroxypyrazole | 14.9 g, yield 49.8% | ClC1=C(C(=O)C=2C(=NN(C2O)C)C)C=CC(=C1C)Cl | C13H12Cl2N2O2
